US06747023B1
To a solution of lithium 6-(tert-butoxycarbonyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate (1.89 g) in N,N-dimethylformamide (40 ml) were added 1-[(6-chlorobenzo[b]thien-2-yl)sulfonyl]piperazine (2.50 g), 1-hydroxybenzotriazole monohydrate (1.20 g) and 1-(dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.70 g) at room temperature. After stirring for 2 days, ethyl acetate (200 ml) and water (1.0 1) were added to the reaction mixture to separate it into layers. The water layer was extracted with ethyl acetate (2×150 ml). The organic layers were combined, washed with water (1.0 l) and a saturated aqueous solution (200 ml) of sodium bicarbonate, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (silica gel: 200 g, methylene chloride:ethyl acetate=7:1→1:1), whereby 1-[[6-(tert-butoxycarbonyl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-4-[(6-chlorobenzo[b]thien-2-yl)sulfonyl]piperazine was obtained as pale yellow foam. A solution of the boc form in methylene chloride (15 ml) was added trifluoroacetic acid (15 ml) at room temperature. After stirring for 10 minutes, the solvent was distilled off under reduced pressure. Methylene chloride (50 ml) and a saturated aqueous solution (150 ml) of sodium bicarbonate were added to the residue to separate it into layers. The water layer was extracted with methylene chloride (6×25 ml). The organic layers were combined, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (silica gel: 100 g, methylene chloride:methanol=25:1→10:1), whereby the title compound (754 mg) was obtained as a pale brown solid.

reactant | lithium | [Li] | Li
reactant | tert-butoxycarbonyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate | 1.89 g | C(C)(C)(C)OC(=O)C1NCCC2=C1SC(=N2)C(=O)[O-]
reactant | 1-[(6-chlorobenzo[b]thien-2-yl)sulfonyl]piperazine | 2.50 g | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CCNCC2)C1 | C12H13ClN2O2S2
reactant | 1-hydroxybenzotriazole monohydrate | 1.20 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.70 g | Cl.CN(C)CCCN=C=NCC
reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-[[6-(tert-butoxycarbonyl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-4-[(6-chlorobenzo[b]thien-2-yl)sulfonyl]piperazine | C(C)(C)(C)OC(=O)C1CC2=C(CN1)SC(=N2)C(=O)N2CCN(CC2)S(=O)(=O)C2=CC1=C(S2)C=C(C=C1)Cl | C24H27ClN4O5S3
